US07067517B2
4-(3-Trifluoromethyl-phenoxy)-phenol
Hydroquinone monobenzylether (1 g, 5.0 mmol), 3-(trifluoromethyl)-phenyl boronic acid (1.9 g, 10.0 mmol), copper (II) acetate (0.91 g, 5.0 mmol) and triethylamine (2.53 g, 25.0 mmol) were dissolved/suspended in dichloromethane (50 ml). The reaction mixture was stirred for 70 h. at room temperature and evaporated to dryness. The crude intermediate was subjected to flash chromatography (ethyl acetate/heptane (1:4)) (42%) and hydrogenated (10% Pd/C) using ethanol as a solvent. The organic phase was evaporated and aqueous sodium hydroxide (1N, 30 ml) was added together with dichloromethane. The two phases were separated and the aqueous phase extracted with dichloromethane (30 ml×2). The aqueous phase was acidified with aqueous hydrochloric acid (2N) and extracted with dichloromethane (30 ml×5). The organic phase was dried and evaporated to give the crude product (47%). HPLC-MS m/z=254.9 (M+1), Rt: 4.39 min.

reactant | Hydroquinone monobenzylether | 5.0 mmol, 1 g | C=1(O)C(=CC(O)=CC1)C1=CC=CC=C1COCC1=CC=CC=C1C=1C(O)=CC=C(C1)O | C26H22O5
reactant | 3-(trifluoromethyl)-phenyl boronic acid | 10.0 mmol, 1.9 g | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | triethylamine | 25.0 mmol, 2.53 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | copper (II) acetate | 5.0 mmol, 0.91 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 4-(3-Trifluoromethyl-phenoxy)-phenol | 47% | FC(C=1C=C(OC2=CC=C(C=C2)O)C=CC1)(F)F | C13H9F3O2
